US06982348B2
To a solution of (2RS,3RS)-2-[4-(tert-butyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionic acid (5.07 g, 15.3 mmol) in tetrahydrofuran (150 ml) were added triethylamine (3.2 ml, 22.95 mmol) and diphenylphosphoryl azide (3.63 ml, 16.8 mmol) at room temperature, and the mixture was heated under reflux for 5 hrs. The solvent was evaporated, passed through silica gel column, and purified by recrystallization (hexane-ethyl acetate) to give (4RS,5SR)-4-[4-(tert-butyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one (3.98 g, 79%) as colorless crystals.

reactant | (2RS,3RS)-2-[4-(tert-butyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionic acid | 15.3 mmol, 5.07 g | C(C)(C)(C)C1=CC=C(CC(C(=O)O)C(O)C2=CC=C(C=C2)F)C=C1 | C20H23FO3
reactant | triethylamine | 22.95 mmol, 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 16.8 mmol, 3.63 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-4-[4-(tert-butyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one | 3.98 g, 79% | C(C)(C)(C)C1=CC=C(CC2NC(OC2C2=CC=C(C=C2)F)=O)C=C1 | C20H22FNO2
